US04780541
95% potassium hydroxide 17.7 g was added and dissolved in a mixture of ethyl alcohol 80 ml and water 10 ml. 2-nitro-2'-hydroxy-5'-methylazobenzene 12.9 g was then added to the resultant solution at 50° to 60° C. for 30 minutes while stirring, and thereafter 9-fluorenone 0.6 g and 35% formalin 5.6 g were added to the solution in 30 minutes. The resultant mixture was stirred for 1 hour at 65° to 70° C., and was further reacted at the boiling point (85° C.) for 4 hours, thus almost all of the azobenzene having disappeared to produce 2-(2-hydroxy-5-methylphenyl)benzotriazole-N-oxide.

reactant | potassium hydroxide | 17.7 g | [OH-].[K+]
reactant | 2-nitro-2'-hydroxy-5'-methylazobenzene | 12.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | 9-fluorenone | 0.6 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | formalin | 5.6 g | C=O | CH2O
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | ethyl alcohol | 80 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(2-hydroxy-5-methylphenyl)benzotriazole-N-oxide | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
